'c check
v1 1 0 dc pulse(0 1 0 .01 .01 1k 1k) ac 1
r1 1 2 1
c2 2 0 1
.list
.print tran v(1) v(2)
*.tran .1 1 0
.tran 1 10 0 trace=n
*.tran 10 100 0
.status notime
.end
